US07834030B2
To an ice cooled solution of 365 mg 2,2-Difluoro-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-but-3-en-1-ol in 10 ml pyridine were added 5 ml acetic acid anhydride. The ice bath was removed and the reaction mixture stirred at room temperature for one hour. The ice was added and the reaction mixture diluted by addition of 100 ml dichloromethane. The organic layer was separated and washed with 50 ml water, 1 M HCl, saturated NaHCO3 solution and brine. Then the organic layer was dried over MgSO4 and the solvent removed in vacuo. The resulting residue was dissolved in 30 ml diethyl ether (flask 1). 246 mg palladium, (II) acetate were added and the mixture cooled in an ice bath. In a second flask 4.0 g N-methyl-N-nitroso-p-toluenesulfonamide were suspended in 30 ml ethanol. An argon current was bubbled permanently through flask 2 and afterwards through flask 1. 2N NaOH was added dropwise to flask 2 until dissolution of N-methyl-N-nitroso-p-toluenesulfonamide, then the argon current was stopped. The reaction mixture (flask 1) was stirred at 0° C. for an additional hour. Then 10 ml acetic acid were added and the reaction mixture diluted by addition of 80 ml ethyl acetate. The organic layer was washed with brine and dried over MgSO4. The solvent was removed in vacuo. The resulting residue was dissolved in 20 ml methanol, 1 ml sodium methylate solution (30%) were added and the reaction mixture was stirred at room temperature for one hour. The reaction mixture was then neutralized by addition of acetic acid, the solvent was removed in vacuo and the residue purified by reversed phase HPLC to obtain 120 mg 2-Cyclopropyl-2,2-difluoro-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanol as lyophilisate.

reactant | 2,2-Difluoro-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-but-3-en-1-ol | 365 mg | FC(C(O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)(C=C)F | C15H12F5NOS
reactant | acetic acid anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-Cyclopropyl-2,2-difluoro-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanol | 120 mg | C1(CC1)C(C(O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)(F)F | C16H14F5NOS
